US09359362B2
Methyl {6-cyano-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate
Under an atmosphere of argon protective gas, 2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (7 mg, 13.6 μmol) was dissolved in a mixture of abs. THF (0.6 ml) and abs. pyridine (11 μl). At room temperature, abs. pyridine (5×11 μl) and methyl chloroformate (5×6.4 mg, 5×68.1 μmol; 25 eq.) were added in a plurality of portions. The mixture was then heated as 80° C. for 12 h. Once HPLC analysis showed substantial conversion, the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (5.4 mg, 69% of theory).

reactant | 2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 13.6 μmol, 7 mg | NC1=NN2C(N(C(=C(C2C2=C(C=C(C=C2)C#N)S(=O)(=O)C)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C22H16F3N7O2S
reactant | THF | 0.6 ml | C1CCOC1 | C4H8O
reactant | methyl chloroformate | 68.1 μmol, 6.4 mg, 25 eq. | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 11 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 11 μl | N1=CC=CC=C1 | C5H5N
product | Methyl {6-cyano-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | C(#N)C1=C(N(C=2N(C1C1=C(C=C(C=C1)C#N)S(=O)(=O)C)N=C(N2)NC(OC)=O)C2=CC(=CC=C2)C(F)(F)F)C | C24H18F3N7O4S
